* H:\00_Lehre\01_Unterrichtsmaterial\03_Embedded_Systems\C-BSc-Embedded-Systems\scripting-and-simulations\spice\i2c.asc
S1 0 N002 N003 0 Open_Drain
V1 N003 0 PULSE(0 5 0 10n 10n {.5*i2c_per} {i2c_per})
C1 N002 0 10n
V2 N001 0 3.3
R2 N001 N002 1k
.param i2c_fm=400k i2c_per={1/i2c_fm}
.tran {10*i2c_per}
.model Open_Drain SW(Ron = 1m Roff= 100Meg Vt=2 Vh = 0)
.backanno
.end
