* C:\dev\C-BSc-Embedded-Systems\scripting-and-simulations\spice\xtal_16mhz.asc
L1 N001 XTAL1 19.8m
C1 N002 N001 4.9f
R1 XTAL2 N002 100
C2 XTAL2 XTAL1 3p
C3 XTAL2 0 22p
C4 XTAL1 0 22p
R3 XTAL2 XTAL1 10Meg
V1 V+ 0 5 Rser=1000m
M1 XTAL2 XTAL1 0 0 NMOS1
M2 XTAL2 XTAL1 V+ V+ PMOS1
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Administrator\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0 3m 0
* Crystal (16 MHz)
.model PMOS1 PMOS(Kp=2m Vto=-0.5)
.model NMOS1 NMOS(Kp=2m Vto=0.5)
* https://ltwiki.org/LTspiceHelp/LTspiceHelp/M_MOSFET.htm
.backanno
.end
